US07109219B2
5-(5-Iodo-2-(3-methylureido)pyrimidin-4-yloxy)-1H-indole-1-carboxylic acid methylamide
Phenyl N-(5-iodo-4-(1-methylaminocarbonyl-1H-indol-5-yloxy)pyrimidin-2-yl)-N-(phenoxycarbonyl)carbamate (597 mg, 0.919 mmol) was dissolved in dimethylformamide (3.0 ml); a 40% methanol solution of methylamine (1.0 ml) was added while stirring at 0° C.; and the reaction mixture was further stirred for 30 minutes keeping the temperature. Water (10 ml) was added to the reaction mixture after the completion of the reaction; the precipitated crystals were filtered off, washed with water, methanol and diethyl ether, and dried under warm aeration to yield the title compound as white crystals (367 mg, 0.787 mmol, 86%).

reactant | Phenyl N-(5-iodo-4-(1-methylaminocarbonyl-1H-indol-5-yloxy)pyrimidin-2-yl)-N-(phenoxycarbonyl)carbamate | 0.919 mmol, 597 mg | IC=1C(=NC(=NC1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C(=O)NC | C28H20IN5O6
reactant | methanol | CO | CH4O
reactant | methylamine | 1.0 ml | CN | CH5N
reactant | Water | 10 ml | O | H2O
reactant | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 5-(5-Iodo-2-(3-methylureido)pyrimidin-4-yloxy)-1H-indole-1-carboxylic acid methylamide | 0.787 mmol, 367 mg, 86% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1I)NC(=O)NC | C16H15IN6O3
